US07572909B2
In preferred embodiments of the present invention, CldAdo is synthesized by employing acetyl chloride and benzyltriethylammonium nitrite (BTEA-NO2)-mediated diazotization/chloro-dediazoniation of 6-O-(2,4,6-triisopropylbenzenesulfonyl) (TIPBS) or 6-chloro derivatives that are readily obtained from dGuo. Non-aqueous diazotization/chloro-dediazoniation (acetyl chloride/benzyltriethylammonium nitrite) of 2, 2′b, or 5 gave the 2-chloropurine derivatives 3, 3′b, or 6, respectively. This new procedure for non-aqueous diazotization/chloro-dediazoniation27 (AcCl/BTEA-NO2/CH2Cl2/−5 to 0° C.) worked well for replacement of the 2-amino group of 2, 2′b, and 5 with chlorine to give 3a (89%), 3b (90%), 3′b (87%), 6a (95%), and 6b (91%).

reactant | CldAdo | C1[C@@H]([C@H](O[C@H]1N2C=NC3=C2N=C(N=C3N)Cl)CO)O | C10H12ClN5O3
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | benzyltriethylammonium nitrite | N(=O)[O-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | 2-chloropurine | ClC1=NC=C2NC=NC2=N1 | C5H3ClN4
